US07479575B2
b) Step 2: Synthesis of 1-bromo-4-[(Z)-2-chloro-2- (4-ethylphenyl) vinyl] benzene (VIc)
In a 100 mL flask, TFA (24.7 mL; 322.8 mmol) and acetyl chloride (18.34 mL; 258.23 rnmol) were added in one portion into 2-(4-bromophenyl)-1-(4-ethylphenyl) ethanone (Vc) (9.787 g; 32.28 mmol) at RT. Protocol and work-up was then similar with -those-described above. The title compoumd (m=9.60 g) was obtained in a 92% yield. Melting point: 75° C.

reactant | TFA | 322.8 mmol, 24.7 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | acetyl chloride | 18.34 mL | C(C)(=O)Cl | C2H3ClO
reactant | 2-(4-bromophenyl)-1-(4-ethylphenyl) ethanone | 32.28 mmol, 9.787 g | BrC1=CC=C(C=C1)CC(=O)C1=CC=C(C=C1)CC | C16H15BrO
product | 1-bromo-4-[(Z)-2-chloro-2- (4-ethylphenyl) vinyl] benzene | 92% yield | BrC1=CC=C(C=C1)\C=C(\C1=CC=C(C=C1)CC)/Cl | C16H14BrCl
